US04001419
The 3-chloro-5-hydroxyxanthone (11 g.) in dimethylformamide (50 ml.) is added to a suspension of sodium hydride (1.5 g.) in dimethylformamide (100 ml.). The mixture is stirred at room temperature for 15 minutes and benzyl bromide (6 ml.) is added dropwise. The mixture is poured into water/ice (600 ml.), extracted with chloroform and the chloroform extract dired with MgS04. Evaporation of the solvent gives a light-brown solid which is recrystallised from ethanol to give 5-benzyloxy-3-chloroxanthone, m.p. 154° C.

reactant | 3-chloro-5-hydroxyxanthone | 11 g | ClC=1C=CC=2C(C3=CC=CC(=C3OC2C1)O)=O | C13H7ClO3
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | benzyl bromide | 6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-benzyloxy-3-chloroxanthone | C(C1=CC=CC=C1)OC1=C2OC=3C=C(C=CC3C(C2=CC=C1)=O)Cl | C20H13ClO3
